US07582651B2
(3) (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)propenoic acid
To a solution of ethyl (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)propenoate (1.52 g, 3.59 mmol) in ethanol (14 ml) and THF (10 ml) was added a 1 N aqueous sodium hydroxide solution (7.2 ml) and the mixture was stirred at room temperature for 7 hours. The reaction solution was poured into water, neutralized with 1 N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give the objective product as a solid material.

reactant | ethyl (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)propenoate | 3.59 mmol, 1.52 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)OCC | C28H25N3O2
reactant | sodium hydroxide | 1 N, 7.2 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 14 ml | C(C)O | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)propenoic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)O | C26H21N3O2
